US08633173B2
205 d) 4-Ethyl-1-{3-[8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperazin-2-one was prepared from 2-chloro-8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine (100.0 mg, 0.3249 mmol) and 1-(3-amino-phenyl)-4-ethyl-piperazin-2-one (79.0 mg, 0.360 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (27.0 mg, 0.0494 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a yellow solid (0.059 g, 37%). MP=210-212° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.51 (d, J=6.8 Hz, 1H), 8.24 (d, J=8.0 Hz, 2H), 8.09 (d, J=7.8 Hz, 2H), 7.76 (s, 1H), 7.65 (d, J=6.9 Hz, 1H), 7.42-7.34 (m, 2H), 7.04 (t, J=6.5 Hz. 1H), 6.96-6.92 (m, 2H), 3.80-3.75 (m, 2H), 3.36 (s, 2H), 3.10 (s, 3H), 2.88-2.83 (m, 2H), 2.58 (q, J=7.0 Hz, 2H), 1.18 (t, J=6.4 Hz, 3H). MS=491 (MH)+.

reactant | 2-chloro-8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | 0.3249 mmol, 100.0 mg | ClC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)S(=O)(=O)C)=N1 | C13H10ClN3O2S
reactant | 1-(3-amino-phenyl)-4-ethyl-piperazin-2-one | 0.360 mmol, 79.0 mg | NC=1C=C(C=CC1)N1C(CN(CC1)CC)=O | C12H17N3O
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0494 mmol, 27.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | 4-Ethyl-1-{3-[8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperazin-2-one | C(C)N1CC(N(CC1)C1=CC(=CC=C1)NC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)S(=O)(=O)C)=N1)=O | C25H26N6O3S
